US07342118B2
(4-Nitro-imidazol-1-yl)-acetic acid methyl ester
4-nitroimidazole was alkylated with bromo-acetic acid methyl ester to provide the title compound: 1H NMR (400 MHz) 3.82 (s, 1H), 4.80, (s, 2H), 7.47 (d, 1H, J=1.7 Hz), 7.84 (d, 1H, J=1.7 Hz); gc/ms m/z 185 (M).

reactant | 4-nitroimidazole | [N+](=O)([O-])C=1N=CNC1 | C3H3N3O2
reactant | bromo-acetic acid methyl ester | COC(CBr)=O | C3H5BrO2
product | (4-Nitro-imidazol-1-yl)-acetic acid methyl ester | COC(CN1C=NC(=C1)[N+](=O)[O-])=O | C6H7N3O4
